US04540699
To a cooled solution of sodium (3.25 g) in ethanol (75 ml) was added a solution of ethyl β-(2-hydroxy-4-pyridyl)propionate (25.38 g) in ethanol (150 ml). This mixture was stirred for 45 minutes and then benzyl chloride (16.58 g) in ethanol (125 ml) was added. The reaction mixture was stirred under reflux for 9 hours, allowed to cool and evaporated under reduced pressure. The residue was taken up in water (150 ml) and diethyl ether (150 ml), the aqueous layer was separated and washed with diethyl ether (2×120 ml). The combined ether extracts were washed with water, dried over MgSO4 and evaporated under reduced pressure to yield ethyl β-(N-benzyl-2-oxo-4-pyridyl)propionate (30.29 g) as an oil.

reactant | sodium | 3.25 g | [Na] | Na
reactant | ethyl β-(2-hydroxy-4-pyridyl)propionate | 25.38 g | OC1=NC=CC(=C1)CCC(=O)OCC | C10H13NO3
reactant | benzyl chloride | 16.58 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | ethyl β-(N-benzyl-2-oxo-4-pyridyl)propionate | 30.29 g | C(C1=CC=CC=C1)N1C(C=C(C=C1)CCC(=O)OCC)=O | C17H19NO3
